US06713471B1
1,2,8,9,10,11-Hexahydro-7H-azepino[4,5-b][1,4]thiazino[2,3,4-hi]indole hydrochloride was prepared from 2,3-dihydro-4H-1,4-benzothiazin-4-amine and hexahydro-4H-azepin-4-one hydrochloride following the procedure of example 471, step A to give the 1,2,8,9,10,11-hexahydro-7H-azepino[4,5-b][1,4]thiazino[2,3,4-hi]indole hydrochloride

reactant | 2,3-dihydro-4H-1,4-benzothiazin-4-amine | S1CCN(C2=C1C=CC=C2)N | C8H10N2S
reactant | hexahydro-4H-azepin-4-one hydrochloride | Cl.N1CCC(CCC1)=O
product | 1,2,8,9,10,11-hexahydro-7H-azepino[4,5-b][1,4]thiazino[2,3,4-hi]indole hydrochloride | Cl.C1CSC=2C=CC=C3C4=C(N1C23)CCNCC4 | InChI=1S/C14H16N2S.ClH/c1-2-11-10-4-6-15-7-5-12(10)16-8-9-17-13(3-1)14(11)16;/h1-3,15H,4-9H2;1H
